US04692526
5-{3-{3-[4-(4-Chlorobenzyl)-1-piperazinyl]propoxy}phenoxy}-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylic acid
Ethyl 5-{3-{3-[4-(4-chlorobenzyl)-1-piperazinyl]propoxy}phenoxy}-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate, (8.00 g, 0.013 mole) was dissolved in ethanol, (150 ml) and water (50 ml) and sodium hydroxide (0.520 g, 0.013 mole) dissolved in water (5 ml) was added. The solution was stirred at room temperature for 5 hours. The reaction was neutralized with dilute hydrochloric acid and excess ethanol evaporated in vacuo. The aqueous solution was extracted with EtOAc, (three times), then chloroform (three times), and the organic extracts combined, dried (MgSO4), and evaporated in vacuo to a pale yellow foam. Trituration with diethyl ether gave a white solid which was filtered off and dried in vacuo to yield 92% of the title compound, mp (EtOH) 100°-2° C. (dec). νmax (mull) 1515, 1590, 1615, 3390 cm-1 δ(DMSOd6) 1.81 (2H, m, CH2), 2.50 (10H, m, piperazinyl+ CH2), 3.45 (2H, s, CH2N--) 3.70 (3H, s, OCH3), 3.89 (2H, t, J 6 Hz, OCH2), 4.75 (1H, bs, OH, exchangeable D2O), 5.35 (2H, s, N--CH2), 6.40 (2H, m, aromatics), 6.67 (1H, dd, J2, 8 Hz, aromatic), 7.00 (4H, ABq, Δν 84 Hz, J 9 Hz, C6H4OCH3), 7.19 (1H, t, J 8 Hz, aromatic) 7.32 (4H, ABq, Δν 17 Hz, J 8.5 Hz, --C6H4 --Cl). Mass spec. Observed mass 547.2342, theoretical mass 547.2350 (C31H34ClN5O5 --CO2).

reactant | Ethyl 5-{3-{3-[4-(4-chlorobenzyl)-1-piperazinyl]propoxy}phenoxy}-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate | 0.013 mole, 8.00 g | ClC1=CC=C(CN2CCN(CC2)CCCOC=2C=C(OC3=C(N=NN3CC3=CC=C(C=C3)OC)C(=O)OCC)C=CC2)C=C1 | C33H38ClN5O5
reactant | sodium hydroxide | 0.013 mole, 0.520 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | EtOH | CCO | C2H6O
solvent | water | 50 ml | O | H2O
product | 5-{3-{3-[4-(4-Chlorobenzyl)-1-piperazinyl]propoxy}phenoxy}-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylic acid | 92% | ClC1=CC=C(CN2CCN(CC2)CCCOC=2C=C(OC3=C(N=NN3CC3=CC=C(C=C3)OC)C(=O)O)C=CC2)C=C1 | C31H34ClN5O5
